US07737149B2
Methyl 2-chloropyrimidine-5-carboxylate (0.863 g, 5.0 mmol), N,N-diethylethanamine (0.697 ml, 5.00 mmol) and 1-methylpiperazine (0.565 ml, 5.09 mmol) were suspended in 2-propanol (10.00 ml) and sealed into a microwave tube. The reaction was heated to 100° C. for 10 mins in the microwave reactor and cooled to room temperature. The precipitate was collected by filtration, washed with EtOH (5 mL) and dried under vacuum to afford methyl 2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxylate (0.405 g, 34.3%) as a white solid, which was used without further purification.

reactant | Methyl 2-chloropyrimidine-5-carboxylate | 5.0 mmol, 0.863 g | ClC1=NC=C(C=N1)C(=O)OC | C6H5ClN2O2
reactant | N,N-diethylethanamine | 5.00 mmol, 0.697 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 5.09 mmol, 0.565 ml | CN1CCNCC1 | C5H12N2
solvent | 2-propanol | 10.00 ml | CC(C)O | C3H8O
product | methyl 2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxylate | 0.405 g, 34.3% | CN1CCN(CC1)C1=NC=C(C=N1)C(=O)OC | C11H16N4O2
